US09328134B2
A solution of (2R,3R,4S,5S,6S)-3,4,5-tris(benzyloxy)-2-((benzyloxy)methyl)-6-(iodomethyl)tetrahydro-2H-pyran (0.7 g, 0.75 mmol, 1.0 equiv) in anhydrous triethyl phosphite (9.0 mL) was heated to 160° C. in a 50 mL sealed tube for 16 hours. The solvent was removed using a Kugelrohr distillation setup, and the material thus obtained was purified by silica gel chromatography, eluting with 50% EtOAc in petroleum ether, to give diethyl (((2S,3S,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)phosphonate as a pale yellow oil (0.5 g, 70%). 1H NMR (300 MHz, CDCl3) δ 7.52-6.98 (m, 20H), 4.77-4.66 (m, 1H), 4.63 (d, J=6.2 Hz, 2H), 4.60-4.42 (m, 6H), 4.16-3.99 (m, 4H), 3.91 (dq, J=8.1, 5.1, 3.9 Hz, 1H), 3.88-3.82 (m, 1H), 3.78 (q, J=4.0 Hz, 4H), 2.25-1.95 (m, 2H), 1.33-1.22 (m, 6H). ESI (M+1) 675.2; calc for C39H47O8P 674.3.

reactant | (2R,3R,4S,5S,6S)-3,4,5-tris(benzyloxy)-2-((benzyloxy)methyl)-6-(iodomethyl)tetrahydro-2H-pyran | 0.75 mmol, 0.7 g, 1.0 equiv | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CI)COCC1=CC=CC=C1 | C35H37IO5
reactant | triethyl phosphite | 9.0 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl (((2S,3S,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)phosphonate | 0.5 g, 70% | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CP(OCC)(OCC)=O | C39H47O8P
